US05639914
20.3 g (0.12 mol) of diphenylamine, 65.1 g (0.15 mol) of 3,3'-dimethyl-4,4'-diiodobiphenyl, 19.3 g (0.14 mol) of anhydrous potassium carbonate, 1.52 g (0.024 mol) of copper powder, and 20 ml of nitrobenzene were mixed. The reaction mixture was then allowed to undergo reaction at a temperature of 190° C. to 205° C. for 21 hours. The reaction product was then extracted with 200 ml of toluene. The insoluble contents were removed by filtration. The filtrate was then concentrated to dryness. The concentrate was then purified by column chromatography (carrier: silica gel; elute: 2/7 mixture of toluene and n-hexane) to obtain 32.6 g (yield: 57.2%) of N-(3,3'-dimethyl-4'-iodo-4-biphenylyl)-N,N-diphenylamine.

reactant | diphenylamine | 0.12 mol, 20.3 g | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | 3,3'-dimethyl-4,4'-diiodobiphenyl | 0.15 mol, 65.1 g | CC=1C=C(C=CC1I)C1=CC(=C(C=C1)I)C | C14H12I2
reactant | potassium carbonate | 0.14 mol, 19.3 g | C([O-])([O-])=O.[K+].[K+]
catalyst | copper | 0.024 mol, 1.52 g | [Cu] | Cu
solvent | nitrobenzene | 20 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | N-(3,3'-dimethyl-4'-iodo-4-biphenylyl)-N,N-diphenylamine | 32.6 g, yield: 57.2% | CC=1C=C(C=CC1N(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC(=C(C=C1)I)C | C26H22IN
